Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Codeine / Indocin / amoxicillin / metronidazole
 
Attending: ___.
 
Chief Complaint:
 R thyroid nodule with AUS
 
Major Surgical or Invasive Procedure:
 s/p L parathyroidectomy, total thyroidectomy.

 
History of Present Illness:
The patient is here to arrange parathyroid surgery. Her 4D CT
Scan showed a left upper 1 cm parathyroid.  Her thyroid nodule
which was AUS is on the RIGHT side.  Thyroseq was positive on 
the
right so she has a high chance of a cancer or NIFTP on the right
side.

On general examination the patient appeared to be in good 
health.
There were no palpable neck masses. There was no regional
adenopathy. 
The patient and I had a good discussion about the proposed
surgery which is parathyroid surgery about which I explained at
her initial visit.  However she will also need a right thyroid
lobectomy and I warned her that she might end up with a total
thyroidectomy depending on how things go at surgery.

The risks of both procedures were explained an she has prepared
literature on both procedures.  I will keep you informed of the
patient's progress. 

 
Past Medical History:
She had breast cancer ___ years and is in remission.  She had
lumpectomy and XRT. 
HTN
 
Social History:
She is a retired ___. Married, Lives in ___

 
Physical Exam:
Physical Exam
General: resting comfortably in NAD
HEENT: EOMI, PERRL, anicteric
Neck: supple, no LAD, incision c/d/I, Mild edema, with 
___ ecchymosis, now tracking lower over her proximal 
chest
Chest: no respiratory distress
Heart: no cardiac distress
Abdomen: soft, non distended, non tender, no rebound, no
guarding
Neuro: alert and oriented x3
Extremities: no edema

 
Pertinent Results:
___ 02:01PM   ___-15
___ 01:33PM   CALCIUM-9.7
___ 11:12AM   ___-128*
 
Brief Hospital Course:
Ms. ___ presented to ___ holding at ___ on ___ for a 
total thyroidectomy and a left parathyroidectomy. She tolerated 
the procedure well without complications (Please see operative 
note for further details). Post-operatively, she developed a 
moderate amount of ___ ecchymosis and signs of a 
small hematoma. She did not have any difficulty breathing at any 
point post-operatively and endorses bruising easily. After a 
brief and uneventful stay in the PACU, the patient was 
transferred to the floor for further post-operative management.

Neuro: Pain was well controlled 
 CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored.
 Pulm: The patient remained stable from a pulmonary standpoint; 
oxygen saturation was routinely monitored. Had good pulmonary 
toileting, as early ambulation and incentive spirometry were 
encouraged throughout hospitalization.
 GI: The patient was initially on clears after the procedure. 
The patient was later advanced to and tolerated a regular diet 
at time of discharge. Patient's intake and output were closely 
monitored
 GU: The voided spontaneously prior to discharge 
 Heme:  The patient received subcutaneous heparin and ___ dyne 
boots were used during this stay, he/she was encouraged to get 
up and ambulate as early as possible. 
Skin: ___ ecchymosis, tracking with gravity over the 
proximal chest. This is expected to self resolve. 

On ___, the patient was discharged to home. At discharge, she 
was tolerating a regular diet, passing flatus, voiding, and 
ambulating independently. She will follow-up in the clinic in 4 
weeks. This information was communicated to the patient directly 
prior to discharge.

 
Discharge Medications:
1.  Acetaminophen 650 mg PO TID  
2.  Calcium Carbonate 1250 mg PO TID 
RX *calcium carbonate 500 mg calcium (1,250 mg) 1 tablet(s) by 
mouth three times a day Disp #*90 Tablet Refills:*0 
3.  Levothyroxine Sodium 112 mcg PO DAILY hypothyroidism 
RX *levothyroxine [Synthroid] 112 mcg 1 tablet(s) by mouth once 
a day Disp #*30 Tablet Refills:*2 
4.  Allopurinol ___ mg PO DAILY  
5.  Cyanocobalamin 500 mcg PO DAILY  
6.  Exemestane 25 mg PO DAILY  
7.  Furosemide 20 mg PO DAILY  
8.  Lisinopril 40 mg PO DAILY  
9.  Metoprolol Succinate XL 25 mg PO DAILY  
10.  Ranitidine 150 mg PO QHS  
11.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
___ F w HTN and L upper 1 cm parathyroid and R thyroid nodule 
with AUS, concerning for papillary thyroid CA, now s/p L 
parathyroidectomy, total thyroidectomy.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the inpatient general surgery unit after 
your total thyroidectomy. You have adequate pain control and 
have tolerated a regular diet and may return home to continue 
your recovery. You will be discharged home on thyroid hormone 
replacement and calcium supplement, please take as prescribed. 
Monitor for symptoms of low Calcium such as numbness or tingling 
around mouth/fingertips or muscle cramps in your legs. If you 
experience any of these symptoms please call Dr. ___ 
___ for advice or if you have severe symptoms go to the 
emergency room. 
Please resume all regular home medications, unless specifically 
advised not to take a particular medication and take any new 
medications as prescribed. You will be given a prescription for 
narcotic pain medication, take as prescribed. It is recommended 
that you take a stool softener such as Colace while taking oral 
narcotic pain medication to prevent constipation. You may also 
take acetaminophen (Tylenol) as directed, but do not exceed 4000 
mg in one day. Please get plenty of rest, continue to walk 
several times per day, and drink adequate amounts of fluids. 
Please call your surgeon or go to the emergency department if 
you have increased pain, swelling, redness, or drainage from the 
incision site. You may shower and wash incisions with a mild 
soap and warm water. Avoid swimming and baths until cleared by 
your surgeon. Gently pat the area dry. You have a neck incision 
with steri-strips in place, do not remove, they will fall off on 
their own.
Thank you for allowing us to participate in your care.

 
Followup Instructions:
___